US07960409B2
Step 8: (S)-1-(1-{[4-(3-fluorophenyl)-2-oxo-2H-chromen-7-yl]methyl}-1H-1,2,3-triazol-4-yl)-1-(trifluoromethyl)propyl 4-nitrobenzoate
To a solution of 7-(azidomethyl)-4-(3-fluorophenyl)-2H-chromen-2-one (30 mg, 0.1 mmol) and 1-ethyl-1-(trifluoromethyl)prop-2-yn-1-yl 4-nitrobenzoate (S-isomer, the second, slower eluting enantiomer from step 2) (27 mg, 0.1 mmol) in THF (5 mL) N,N-diisopropylethylamine (79 uL, 0.45 mmol) and copper iodide (26 mg, 0.14 mmol) were added. After overnight stirring, the reaction was diluted with ethyl acetate, filtered and washed with water and brine. The organic layer was then dried over MgSO4, filtered and concentrated. The crude residue obtained was purified by column chromatography (acetone/CH2Cl2 5:95) to afford the title compound. 1H NMR (400 MHz, acetone-d6): 8.5 (s, 1H), 8.42 (d, 2H), 8.31 (d, 2H), 7.7-7.6 (m, 1H), 7.51 (d, 1H), 7.4-7.25 (m, 5H), 6.42 (s, 1H), 5.89 (s, 2H), 3.1-2.98 (m, 1H), 2.91-2.8 (m, 1H), 1.14 (t, 3H).

reactant | 7-(azidomethyl)-4-(3-fluorophenyl)-2H-chromen-2-one | 0.1 mmol, 30 mg | N(=[N+]=[N-])CC1=CC=C2C(=CC(OC2=C1)=O)C1=CC(=CC=C1)F | C16H10FN3O2
reactant | 1-ethyl-1-(trifluoromethyl)prop-2-yn-1-yl 4-nitrobenzoate | [N+](=O)([O-])C1=CC=C(C(=O)OC(C#C)(C(F)(F)F)CC)C=C1 | C13H10F3NO4
reactant | THF | 0.45 mmol, 5 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | copper iodide | 0.14 mmol, 26 mg | [Cu](I)I
product | (S)-1-(1-{[4-(3-fluorophenyl)-2-oxo-2H-chromen-7-yl]methyl}-1H-1,2,3-triazol-4-yl)-1-(trifluoromethyl)propyl 4-nitrobenzoate | [N+](=O)([O-])C1=CC=C(C(=O)O[C@](CC)(C(F)(F)F)C=2N=NN(C2)CC2=CC=C3C(=CC(OC3=C2)=O)C2=CC(=CC=C2)F)C=C1 | C29H20F4N4O6
